* Sample and Hold
.subckt sample Vdd 0 N008 CLK OUT
M1 Vdd N004 N005 0 nfet l=200n w=240n
M2 Vdd N005 N004 0 nfet l=200n w=240n
M3 Vdd N005 N003 0 nfet l=200n w=240n
M4 N003 N006 N001 N003 pfet l=200n w=600n
M5 Vdd CLK N006 Vdd pfet l=200n w=600n
M6 N006 CLK N007 0 nfet l=200n w=240n
M7 N007 CLK_BAR 0 0 nfet l=200n w=240n
M8 N001 Vdd N002 0 nfet l=200n w=240n
M9 N002 CLK_BAR 0 0 nfet l=200n w=240n
M10 N006 N001 N007 0 nfet l=200n w=240n
M11 N008 N001 N007 0 nfet l=200n w=240n
M12 OUT N001 N008 0 nfet l=200n w=240n
M13 Vdd CLK CLK_BAR Vdd pfet l=200n w=600n
M14 CLK_BAR CLK 0 0 nfet l=200n w=240n
M15 N008 N006 OUT Vdd pfet l=200n w=600n
C1 N005 CLK_BAR 1p
C2 N004 CLK 1p
C3 N003 N007 1p
C4 OUT 0 1p
.ends sample

